US07705053B2
Production of 3-[(E)-2-(2-fluoro-4-trifluoromethyl-phenyl)-vinyl]-benzamide (Compound 2-3-7)
The captioned compound was synthesized from 2-fluoro-4-trifluoromethylbenzyl bromide and 3-formyl-4-methoxybenzamide by the same procedure as in the manufacturing method described in Example 2-3-6.

reactant | 2-fluoro-4-trifluoromethylbenzyl bromide | FC1=C(CBr)C=CC(=C1)C(F)(F)F | C8H5BrF4
reactant | 3-formyl-4-methoxybenzamide | C(=O)C=1C=C(C(=O)N)C=CC1OC | C9H9NO3
product | 3-[(E)-2-(2-fluoro-4-trifluoromethyl-phenyl)-vinyl]-benzamide | FC1=C(C=CC(=C1)C(F)(F)F)/C=C/C=1C=C(C(=O)N)C=CC1 | C16H11F4NO
